US03976635
A mixture of sodium salt of 2-hydroxyimino-2-cyanoacetic acid amide (13.5 g), water (80 ml) and acetone (10 ml) is cooled with ice-water, and isobutyl chloroformate (13.7 g) is dropwise added thereto. The resulting mixture is, after adjusted to pH 7, stirred at a temperature lower than 20°C for 1 hour. The precipitated crystals are collected by filtration and washed with water to give 2-isobutoxycarbonyloxyimino-2-cyanoacetic acid amide (12.3 g). A part of the product is recrystallized from ethyl acetate to obtain crystals melting at 156° to 158°C.

reactant | sodium | [Na] | Na
reactant | 2-hydroxyimino-2-cyanoacetic acid amide | 13.5 g | ON=C(C(=O)N)C#N | C3H3N3O2
reactant | water | 80 ml | O | H2O
reactant | isobutyl chloroformate | 13.7 g | ClC(=O)OCC(C)C | C5H9ClO2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-isobutoxycarbonyloxyimino-2-cyanoacetic acid amide | 12.3 g | C(C(C)C)OC(=O)ON=C(C(=O)N)C#N | C8H11N3O4
